US07335658B2
SYNTHESIS OF 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
The mixture of 6-oxo-1,6-dihydropyridazine-3-carboxylic acid monohydrate (3.16 g; 20.0 mmol), dimethylformamide (0.5 mL) and thionyl chloride (5-7 mL) in chloroform (70 mL) was kept at 50-60° C. overnight. The reaction mixture was evaporated in vacuo to dryness. The solid residue was dissolved in dichloromethane (70 mL) and added dropwise to the mixture of 3-methylbutylamine (30 mmol, 2.7 mL) and triethylamine (5 mL) in dichloromethane (150 mL) at ambient temperature. The mixture was stirred for 30 min, washed sequentially with 10% HCl solution, saturated NaHCO3 and water, and then dried over MgSO4. The final compound was isolated by recrystallization from ether:hexanes (5:1) (19.76 mmol). Yield: 98%.

reactant | 6-oxo-1,6-dihydropyridazine-3-carboxylic acid monohydrate | 20.0 mmol, 3.16 g | O.O=C1C=CC(=NN1)C(=O)O
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 5-7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methylbutylamine | 30 mmol, 2.7 mL | CC(CCN)C | C5H13N
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | Yield: 98% | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
